US04001426
2-Benzoyl-3-p-methoxyphenylbenzofuran is demethylated with pyridine hydrochloride as previously described to give 2-benzoyl-3-p-hydroxyphenylbenzofuran, which upon reaction with 3-diethylaminopropyl chloride as described in Example 1, gives the title compound.

reactant | 2-Benzoyl-3-p-methoxyphenylbenzofuran | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1C1=CC=C(C=C1)OC)C=CC=C2 | C22H16O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 2-benzoyl-3-p-hydroxyphenylbenzofuran | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1C1=CC=C(C=C1)O)C=CC=C2 | C21H14O3
